US08357703B2
b) 6-(3-Butyl-isoxazol-4-ylmethoxy)-N—((S)-2-hydroxy-1-methyl-ethyl)-nicotinamide
As described for example 19b, 6-(3-butyl-isoxazol-4-ylmethoxy)-nicotinic acid (200 mg, 0.72 mmol) was converted, instead of 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid, using (S)-(+)-2-amino-1-propanol instead of rac-2,2,2-trifluoro-1-(methyl)ethylamine, to the title compound (190 mg, 79%) which was obtained as a white solid after purification by chromatography (silica, heptane:ethyl acetate 7:3 to 0:1). MS: m/e=332.1 [M−H]−.

reactant | 6-(3-butyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.72 mmol, 200 mg | C(CCC)C1=NOC=C1COC1=NC=C(C(=O)O)C=C1 | C14H16N2O4
reactant | 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C15H18N2O4
reactant | (S)-(+)-2-amino-1-propanol | N[C@H](CO)C | C3H9NO
product | 6-(3-Butyl-isoxazol-4-ylmethoxy)-N—((S)-2-hydroxy-1-methyl-ethyl)-nicotinamide | 190 mg, 79% | C(CCC)C1=NOC=C1COC1=NC=C(C(=O)N[C@H](CO)C)C=C1 | C17H23N3O4
